US06784167B2
To a 0° C. solution of 4-(4-bromophenyl)phenol (1.0 g, 4.0 mmol) and pyridine (0.65 mL, 8 mmol) in CH2Cl2 (20 mL) was added chloro-tert-butyldimethylsilane (0.72 g, 4.8 mmol). The resulting mixture was allowed to warm to room temperature and stirred for 3 days, then diluted with water and extracted with CH2Cl2. The organic layer was washed with a 2N HCl solution, a 1N KOH solution, dried (MgSO4) and concentrated under reduced pressure to yield 1-(4-bromophenyl)-4-tert-butyldimethylsilyloxybenzene (0.89 g, 61%) as a white solid: TLC (33% EtOAc/hex) Rf 0.57.

reactant | 4-(4-bromophenyl)phenol | 4.0 mmol, 1.0 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | pyridine | 8 mmol, 0.65 mL | N1=CC=CC=C1 | C5H5N
reactant | chloro-tert-butyldimethylsilane | 4.8 mmol, 0.72 g | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(4-bromophenyl)-4-tert-butyldimethylsilyloxybenzene | 0.89 g, 61% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C18H23BrOSi
